US08557872B2
Step 4: Synthesis of 3-(2-ethoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester
2-Ethoxy-4-trifluoromethyl-benzaldehyde (729 mg, 3.34 mmol) was reacted with methyl (triphenylphosphoranylidene)acetate (1.45 g, 4.34 mmol) at 110° C. overnight as described above to yield title compound (476.5 mg, 52%).

reactant | 2-Ethoxy-4-trifluoromethyl-benzaldehyde | 3.34 mmol, 729 mg | C(C)OC1=C(C=O)C=CC(=C1)C(F)(F)F | C10H9F3O2
reactant | methyl (triphenylphosphoranylidene)acetate | 4.34 mmol, 1.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
product | 3-(2-ethoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 476.5 mg, 52% | COC(C=CC1=C(C=C(C=C1)C(F)(F)F)OCC)=O | C13H13F3O3
